US08835470B2
To a mixture of (Z)-ethyl 2-chloro-2-(hydroxyimino)acetate (3.03 g, 20 mmol) and ethynylbenzene (4.39 mL, 40 mmol) in ether (80 mL) at room temperature was added a solution of triethylamine (5.58 mL, 40.0 mmol) in ether (20 mL) dropwise over 60 minutes. The reaction mixture was stirred for 2 h at room temperature. The reaction mixture was filtered, and the filtrate was concentrated to a yellow oil which was purified by flash silica gel chromatography using a mixture of ethyl acetate in hexane (0-12%) to afford ethyl 5-phenylisoxazole-3-carboxylate (3.06 g, 14.09 mmol, 70% yield) as a white solid. The compound had an HPLC retention time=2.99 minutes (YMC-Combi 4.6×50 mm S-5 ODS column) eluting with 10-90% aqueous methanol+0.2% phosphoric acid over a 4 minute gradient. MS:(M+H)=218.12. 1H-NMR (400 MHz, CDCl3) δ ppm 1.45 (t, J=7.3Hz, 3H), 4.48 (q, J=7.3, 2H), 6.93 (s, 1H), 7.45-7.53 (m, 3H), and 7.77-7.85 (m, 2H).

reactant | (Z)-ethyl 2-chloro-2-(hydroxyimino)acetate | 20 mmol, 3.03 g | Cl\C(\C(=O)OCC)=N/O | C4H6ClNO3
reactant | ethynylbenzene | 40 mmol, 4.39 mL | C(#C)C1=CC=CC=C1 | C8H6
reactant | triethylamine | 40.0 mmol, 5.58 mL | C(C)N(CC)CC | C6H15N
solvent | ether | 80 mL | CCOCC | C4H10O
solvent | ether | 20 mL | CCOCC | C4H10O
product | ethyl 5-phenylisoxazole-3-carboxylate | 14.09 mmol, 3.06 g, 70% yield | C1(=CC=CC=C1)C1=CC(=NO1)C(=O)OCC | C12H11NO3
